US08440710B2
To a solution of a 3,3,3-trifluoro-propan-1-ol (6.22 g) in acetonitrile (200 ml) kept at RT under an argon atmosphere were added 1-fluoro-4-nitro-benzene (10.1 g) and Cs2CO3 (28.7 g) and the mixture was heated to 100° C. for 18 h. The reaction mixture was cooled to RT and partitioned between AcOEt and ice water. The layers were separated, dried, over Na2SO4 and the solvent was evaporated. The residue was purified by flash chromatography (silica gel; eluent: AcOEt/heptane:gradient 3 to 5%) to afford 1-nitro-4-(3,3,3-trifluoro-propoxy)-benzene as light yellow liquid (3.5 g). MS (EI, m/e): 235.0 (M+).

reactant | 3,3,3-trifluoro-propan-1-ol | 6.22 g | FC(CCO)(F)F | C3H5F3O
reactant | 1-fluoro-4-nitro-benzene | 10.1 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Cs2CO3 | 28.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 1-nitro-4-(3,3,3-trifluoro-propoxy)-benzene | 3.5 g | [N+](=O)([O-])C1=CC=C(C=C1)OCCC(F)(F)F | C9H8F3NO3
